US07547691B2
2-{5-Methyl-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid dimethylamide di-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride, the title compound is synthesized from crude product 2-[5-methyl-2-(2-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-6-carboxylic acid dimethylamide and isolated as yellow foam (307 mg, 42% yield). ES+(m/z) 438 [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.ClC=1C(=NC(=NC1)NCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N
reactant | 2-[5-methyl-2-(2-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-6-carboxylic acid dimethylamide | CN(C(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCC2CCNCC2)C1)C | C23H29N5OS
product | 2-{5-Methyl-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid dimethylamide di-hydrochloride | Cl.Cl.CN(C(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCC2CCN(CC2)C)C1)C | InChI=1S/C24H31N5OS.2ClH/c1-16-15-26-24(25-10-7-17-8-11-29(4)12-9-17)27-22(16)21-13-18-5-6-19(14-20(18)31-21)23(30)28(2)3;;/h5-6,13-15,17H,7-12H2,1-4H3,(H,25,26,27);2*1H
